US07601856B2
A mixture of 2-chloro-N-6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-ylacetamide (0.115 g, 0.51 mmol) and cesium carbonate (0.34 g) in water (2 mL) and acetonitrile (4 mL) was heated in the microwave for 15 min. The reaction mixture was concentrated and the crude material was purified by HPLC to provide N-6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-yl-2-hydroxyacetamide (0.010 g). MS (ESI) m/z 274 ([M+H]+);MS (ESI) m/z 272 ([M−H]−).

reactant | 2-chloro-N-6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-ylacetamide | 0.51 mmol, 0.115 g | ClCC(=O)NC1=CC2=C(OC3=C2CCCCCC3)C=C1 | C16H18ClNO2
reactant | cesium carbonate | 0.34 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | 2 mL | O | H2O
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | N-6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-yl-2-hydroxyacetamide | 0.010 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)NC(CO)=O | C16H19NO3
